US09326987B2
2-(1-Piperidinylmethyl)-N-[6-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide
2-(Chloromethyl)-N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-1,3-thiazole-4-carboxamide (40 mg) and piperidine (0.5 ml) were added to a microwave vial then heated in the microwave for 15 min at 90° C. The solvent was blown off under nitrogen. IPA (3 ml) and 2M NaOH (aq) (2 ml) were added and the reaction mixture was stirred for 29 h. The reaction was heated to 50° C. for 5 min then cooled to RT for stirring overnight. The mixture was neutralised to pH 7 with 2M HCl (aq.) and the solvent was removed under a stream of nitrogen. The resultant solid was dissolved in DMSO (2 ml), filtered and purified by MDAP (method K). The fractions were combined and solvent was removed under nitrogen. The residue was dissolved in water:1,4-dioxane (1:1) then freeze-dried to give title compound, as an orange solid, 15 mg.

reactant | 2-(Chloromethyl)-N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-1,3-thiazole-4-carboxamide | 40 mg | ClCC=1SC=C(N1)C(=O)NC1=C2C=NN(C2=CC(=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)S(=O)(=O)C2=CC=CC=C2 | C31H21ClN6O5S3
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | NaOH | 2M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | IPA | 3 ml | CC(C)O | C3H8O
product | 2-(1-Piperidinylmethyl)-N-[6-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-indazol-4-yl]-1,3-thiazole-4-carboxamide | N1(CCCCC1)CC=1SC=C(N1)C(=O)NC1=C2C=NNC2=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C24H23N7OS
